US04940710
7-[3-(2,5-Dimethyl-3-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 2.35 g of 2-(2,5-dimethyl-3-thienyl)piperazine and 1.076 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 10 ml of pyridine was heated for 48 hours, then cooled and filtered. The filtrate was evaporated under reduced pressure and the residue triturated with chloroform:methanol (9:1),. giving mg of the desired product, mp 248°-250° C.

reactant | 2-(2,5-dimethyl-3-thienyl)piperazine | 2.35 g | CC=1SC(=CC1C1NCCNC1)C | C10H16N2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.076 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-[3-(2,5-Dimethyl-3-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | CC=1SC(=CC1C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F)C | C22H24FN3O3S
